US07618990B2
4-(4-Bromophenyl)-1,3-thiazol-2-ylamine (510 mg, 2.0 mmol) and methyl-3,3,3-trifluoropyruvate (0.10 mL, 1.0 mmol) were dissolved in 50 mL methylene chloride. Titanium (IV) chloride (1M in toluene, 1.6 mL, 1.6 mmol) was added dropwise to give an orange-brown suspension. The mixture was stirred for 15 min and then added by cannula to a solution of sodium cyanoborohydride (0.26 g, 3.0 mmol) in 50 mL of methanol. The mixture was stirred for 15 min and then quenched by the addition of H2O and saturated aqueous sodium bicarbonate. The mixture was extracted three times with methylene chloride. The organics were combined, washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (100% methylene chloride) afforded methyl N-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-3,3,3-trifluoroalaninate (0.17 g, 44%) as a white solid. MS (ES) m/z 392.8.

reactant | 4-(4-Bromophenyl)-1,3-thiazol-2-ylamine | 2.0 mmol, 510 mg | BrC1=CC=C(C=C1)C=1N=C(SC1)N | C9H7BrN2S
reactant | methyl-3,3,3-trifluoropyruvate | 1.0 mmol, 0.10 mL | COC(C(=O)C(F)(F)F)=O | C4H3F3O3
reactant | sodium cyanoborohydride | 3.0 mmol, 0.26 g | C(#N)[BH3-].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Titanium (IV) chloride | 1.6 mmol, 1M, 1.6 mL | [Ti](Cl)(Cl)(Cl)Cl
product | methyl N-[4-(4-bromophenyl)-1,3-thiazol-2-yl]-3,3,3-trifluoroalaninate | 0.17 g, 44% | BrC1=CC=C(C=C1)C=1N=C(SC1)N[C@@H](C(F)(F)F)C(=O)OC | C13H10BrF3N2O2S
